US09056881B2
Methyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH3, (2.755 g; 8.7 mmol) is added at room temperature to triphenyl phosphite, P(OC6H5)3, (2.075 g; 6.7 mmol) in a 10 ml glass flask. The two-phase reaction mixture is warmed and stirred at 60° C. for 5.5 h. A cloudy and colourless reaction mixture forms, that is stirred at RT for 16 h and at 60° C. for 5 h. Methyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OCH3, (0.380 g; 1.2 mmol) is added again, and the mixture is again stirred at 60° C. for 5.5 h. Methyltriphenoxyphosphonium bis(pentafluoroethyl)phosphinate, [(C6H5O)3PCH3]-[(C2F5)2P(O)O], can be isolated as white and crystalline solid (3.827 g; 6.1 mmol) in a yield of 91% and a purity of 89% by purification in vacuo (10−3 mbar) at 80° C.

reactant | Methyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OC)(=O)C(C(F)(F)F)(F)F | C5H3F10O2P
reactant | (C2F5)2P(O)OCH3 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OC | C5H3F10O2P
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
product | Methyltriphenoxyphosphonium bis(pentafluoroethyl)phosphinate | yield of 91% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | InChI=1S/C19H18O3P.C4HF10O2P/c1-23(20-17-11-5-2-6-12-17,21-18-13-7-3-8-14-18)22-19-15-9-4-10-16-19;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h2-16H,1H3;(H,15,16)/q+1;/p-1
